US08039463B2
DIPEA (146 mg, 0.2 mL, 1.17 mmol) was added dropwise to N-biphenyl-4-yl-malonamic acid (100 mg, 0.39 mmol) in DMF (2 mL) followed by EDCI (90 mg, 0.47 mmol) and HOBT (63 mg, 0.47 mmol). After 2 minutes, (2-bromo-phenyl)-[1,4]diazepan-1-yl-methanone hydrochloride (150 mg, 0.47 mmol) was added and stirring was continued at room temperature overnight. Cold water was then added and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure to afford 110 mg (54.18% yield) of N-biphenyl-4-yl-3-[4-(2-bromo-benzoyl)-[1,4]diazepan-1-yl]-3-oxo-propionamide. LC/MS [M+H]+: 520.12, 96.67%. 1H NMR (300 MHz, DMSO-d6): δ 10.3-10.2 (m, 1H), 7.8-6.7 (m, 13H), 4.1-3.4 (m, 9H), 3.3-3.0 (m, 2H), 2.0-1.8 (m, 1H), 1.7-1.5 (m, 1H).

reactant | DIPEA | 1.17 mmol, 0.2 mL, 146 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-biphenyl-4-yl-malonamic acid | 0.39 mmol, 100 mg | C1(=CC=C(C=C1)NC(CC(=O)O)=O)C1=CC=CC=C1 | C15H13NO3
reactant | EDCI | 0.47 mmol, 90 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.47 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2-bromo-phenyl)-[1,4]diazepan-1-yl-methanone hydrochloride | 0.47 mmol, 150 mg | Cl.BrC1=C(C=CC=C1)C(=O)N1CCNCCC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-[4-(2-bromo-benzoyl)-[1,4]diazepan-1-yl]-3-oxo-propionamide | 110 mg, 54.18% yield | C1(=CC=C(C=C1)NC(CC(=O)N1CCN(CCC1)C(C1=C(C=CC=C1)Br)=O)=O)C1=CC=CC=C1 | C27H26BrN3O3
